### PR TITLE
feat(ErdosProblems): 887

### LINKED ISSUE #1004: Erdős Problem 887
### What is the conjecture

https://www.erdosproblems.com/887

  Is there an absolute constant $K$ such that, for every $C>0$, if $n$ is sufficiently large then $n$ has at most $K$ divisors in $(n^{1/2},n^{1/2}+C n^{1/4})$. 

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by AlexBrodbelt**
Formalization of Erdos Problem 887. Please let me know if there are any mistakes.

fixes #1004

### CODE REVIEW

File: FormalConjectures/ErdosProblems/887.lean [hunk 1]
```diff
@@ -0,0 +1,47 @@
...
+*Reference:* [erdosproblems.com/887](https://www.erdosproblems.com/887)
+-/
+/-
+Is there an absolute constant $K$ such that, for every $C > 0$, if $n$ is sufficiently large then
+$n$ has at most $K$ divisors in $(n^{\frac{1}{2}}, n^{\frac{1}{2}} + C n^{\frac{1}{4}})$
+-/
+
+namespace Erdos887
+
+@[category research solved, AMS 11]
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/887.lean:52]: This problem looks open according to the website
```suggestion
@[category research open, AMS 11]
```

File: FormalConjectures/ErdosProblems/887.lean [hunk 2]
```diff
@@ -0,0 +1,47 @@
...
+theorem erdos_887 : ∀ C > 0, ∀ᶠ n in atTop,
+  #{ d ∈ Ioo (⌊(n : ℝ)^(1 / 2)⌋) (⌈ n^(1 / 2) + C * n^(1 / 4)⌉) | d ∣ n } ≤ answer(sorry) := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/887.lean]: `1 / 2` is using `Nat` division, so this is actually `0`. Either cast `((1 : ℝ) / 2)` or (even better) use the following:
```suggestion
  #{ d ∈ Ioo (⌊√n⌋) (⌈√n+ C * n^(1 / 4)⌉) | d ∣ n } ≤ answer(sorry) := by
```

File: FormalConjectures/ErdosProblems/887.lean [hunk 3]
```diff
@@ -0,0 +1,47 @@
...
+-/
+/-
+Is there an absolute constant $K$ such that, for every $C > 0$, if $n$ is sufficiently large then
+$n$ has at most $K$ divisors in $(n^{\frac{1}{2}}, n^{\frac{1}{2}} + C n^{\frac{1}{4}})$
+-/
+
+namespace Erdos887
+
+@[category research solved, AMS 11]
+theorem erdos_887 : ∀ C > 0, ∀ᶠ n in atTop,
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/887.lean]: Could you also provide a non-constructive variant, along the lines of `∃ K, ...`

File: FormalConjectures/ErdosProblems/887.lean [hunk 4]
```diff
@@ -0,0 +1,47 @@
...
+  #{ d ∈ Ioo (⌊(n : ℝ)^(1 / 2)⌋) (⌈ n^(1 / 2) + C * n^(1 / 4)⌉) | d ∣ n } ≤ answer(sorry) := by
+  sorry
+
+/-
+A question of Erdös and Rosenfeld, who proved that there are infinitely many $n$ with $4$ divisors
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/887.lean]:
```suggestion
A question of Erdős and Rosenfeld, who proved that there are infinitely many $n$ with $4$ divisors
```

File: FormalConjectures/ErdosProblems/887.lean [hunk 5]
```diff
@@ -0,0 +1,47 @@
...
+in $(n^{\frac{1}{2}}, n^{\frac{1}{2}} + n^{\frac{1}{4}})$, and ask whether $4$ is best possible here.
+-/
+@[category research solved, AMS 11]
+theorem erdos_887.variants :
+  ∀ᶠ n in atTop, #{ d ∈ Ioo (⌊(n : ℝ)^(1 / 2)⌋) (⌈ n^(1 / 2) + n^(1 / 4)⌉) | d ∣ n } ≤ 4 := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/887.lean]: statements should be indented 4 spaces
```suggestion
    ∀ᶠ n in atTop, #{ d ∈ Ioo (⌊(n : ℝ)^(1 / 2)⌋) (⌈ n^(1 / 2) + n^(1 / 4)⌉) | d ∣ n } ≤ 4 := by
```

File: FormalConjectures/ErdosProblems/887.lean [hunk 6]
```diff
@@ -0,0 +1,47 @@
...
+@[category research solved, AMS 11]
+theorem erdos_887 : ∀ C > 0, ∀ᶠ n in atTop,
+  #{ d ∈ Ioo (⌊(n : ℝ)^(1 / 2)⌋) (⌈ n^(1 / 2) + C * n^(1 / 4)⌉) | d ∣ n } ≤ answer(sorry) := by
+  sorry
+
+/-
+A question of Erdös and Rosenfeld, who proved that there are infinitely many $n$ with $4$ divisors
+in $(n^{\frac{1}{2}}, n^{\frac{1}{2}} + n^{\frac{1}{4}})$, and ask whether $4$ is best possible here.
+-/
+@[category research solved, AMS 11]
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/887.lean:52]: I guess this part is also technically open?
```suggestion
@[category research open, AMS 11]
```

File: FormalConjectures/ErdosProblems/887.lean [hunk 7]
```diff
@@ -0,0 +1,47 @@
...
+theorem erdos_887.variants :
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/887.lean]: Could you also add the solved claim about there being infinitely many `n` as a separate variant please?

File: FormalConjectures/ErdosProblems/887.lean (hunk 2 above)
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/887.lean]: You will need to also write `((1 : ℝ) / 4)` to avoid nat division here

File: FormalConjectures/ErdosProblems/887.lean (hunk 5 above)
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/887.lean]:
```suggestion
  ∀ᶠ n in atTop, #{ d ∈ Ioo (⌊√n⌋) (⌈√n + n^((1 : ℝ) / 4)⌉) | d ∣ n } ≤ 4 := by
```

File: FormalConjectures/ErdosProblems/887.lean (hunk 7 above)
Comment (AlexBrodbelt) [reply FormalConjectures/ErdosProblems/887.lean]: ah I misunderstood the statement that was proven.

File: FormalConjectures/ErdosProblems/887.lean [hunk 8]
```diff
@@ -0,0 +1,58 @@
...
+
+/-!
+# Erdős Problem 887
+
+*Reference:* [erdosproblems.com/887](https://www.erdosproblems.com/887)
+-/
+/-
+Is there an absolute constant $K$ such that, for every $C > 0$, if $n$ is sufficiently large then
+$n$ has at most $K$ divisors in $(n^{\frac{1}{2}}, n^{\frac{1}{2}} + C n^{\frac{1}{4}})$
+-/
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/887.lean]: This should go above both `erdos_887` and `erdos_887.variant_i` and the opening delimiter needs to have two hyphens `/--` to format it as a docstring

File: FormalConjectures/ErdosProblems/887.lean [hunk 9]
```diff
@@ -0,0 +1,58 @@
...
+
+@[category research open, AMS 11]
+theorem erdos_887.variant_i : ∃ K, ∀ C > (0 : ℝ), ∀ᶠ n in atTop,
+    #{ d ∈ Ioo (⌊√(n : ℝ)⌋) (⌈ √(n : ℝ) + C * n^((1 : ℝ) / 4)⌉) | d ∣ n } ≤ K := by
+  sorry
+
+/-
+A question of Erdős and Rosenfeld, who proved that there are infinitely many $n$ with $4$ divisors
+in $(n^{\frac{1}{2}}, n^{\frac{1}{2}} + n^{\frac{1}{4}})$, and ask whether $4$ is best possible here.
+-/
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/887.lean]:
```suggestion
/--
A question of Erdős and Rosenfeld, who proved that there are infinitely many $n$ with $4$ divisors
in $(n^{\frac{1}{2}}, n^{\frac{1}{2}} + n^{\frac{1}{4}})$.
-/
```

File: FormalConjectures/ErdosProblems/887.lean [hunk 10]
```diff
@@ -0,0 +1,58 @@
...
+@[category research solved, AMS 11]
+theorem erdos_887.variant_ii :
+    Infinite {n : ℤ | (#{ d ∈ Ioo (⌊√(n : ℝ)⌋) (⌈ √(n : ℝ) + n^((1 : ℝ) / 4)⌉) | d ∣ n } ≤ 4)} := by
+  sorry
+
+@[category research open, AMS 11]
+theorem erdos_887.variant_iii :
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/887.lean:62]:
```suggestion
  sorry

/-- 
Erdős and Rosenfeld, ask whether $4$ is the best possible $K$ for the infinitude of $n$ with $K$ divisors
in $(n^{\frac{1}{2}}, n^{\frac{1}{2}} + n^{\frac{1}{4}})$.
-/
@[category research open, AMS 11]
theorem erdos_887.variant_iii :
```

File: FormalConjectures/ErdosProblems/887.lean [hunk 11]
```diff
@@ -0,0 +1,58 @@
...
+    IsLeast {K | ∀ᶠ n in atTop,
+    #{ d ∈ Ioo (⌊√(n : ℝ)⌋) (⌈ √(n : ℝ) + n^((1 : ℝ) / 4)⌉) | d ∣ n } ≤ K } 4 := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/887.lean]: I think by "best possible" they mean the smallest $K$ such that the set of $n$ with $K$ divisors is infinite.

File: FormalConjectures/ErdosProblems/887.lean [hunk 12]
```diff
@@ -0,0 +1,58 @@
...
+/-
+Is there an absolute constant $K$ such that, for every $C > 0$, if $n$ is sufficiently large then
+$n$ has at most $K$ divisors in $(n^{\frac{1}{2}}, n^{\frac{1}{2}} + C n^{\frac{1}{4}})$
+-/
+
+namespace Erdos887
+
+@[category research open, AMS 11]
+theorem erdos_887 : ∀ C > (0 : ℝ), ∀ᶠ n in atTop,
+    #{ d ∈ Ioo (⌊√(n : ℝ)⌋) (⌈ √(n : ℝ) + C * n^((1 : ℝ) / 4)⌉) | d ∣ n } ≤ answer(sorry) := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/887.lean]: `√` will coerce automatically to `ℝ`, so you can just write `√n`

File: FormalConjectures/ErdosProblems/887.lean [hunk 13]
```diff
@@ -0,0 +1,58 @@
...
+    #{ d ∈ Ioo (⌊√(n : ℝ)⌋) (⌈ √(n : ℝ) + C * n^((1 : ℝ) / 4)⌉) | d ∣ n } ≤ K := by
+  sorry
+
+/-
+A question of Erdős and Rosenfeld, who proved that there are infinitely many $n$ with $4$ divisors
+in $(n^{\frac{1}{2}}, n^{\frac{1}{2}} + n^{\frac{1}{4}})$, and ask whether $4$ is best possible here.
+-/
+@[category research solved, AMS 11]
+theorem erdos_887.variant_ii :
+    Infinite {n : ℤ | (#{ d ∈ Ioo (⌊√(n : ℝ)⌋) (⌈ √(n : ℝ) + n^((1 : ℝ) / 4)⌉) | d ∣ n } ≤ 4)} := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/887.lean]: I think it should be `=` in this case, similarly in `erdos_887.variant_iii`
```suggestion
    Infinite {n : ℤ | (#{ d ∈ Ioo (⌊√(n : ℝ)⌋) (⌈ √(n : ℝ) + n^((1 : ℝ) / 4)⌉) | d ∣ n } = 4)} := by
```

**Review by smmercuri — CHANGES_REQUESTED** [review]

File: FormalConjectures/ErdosProblems/887.lean (hunk 11 above)
Comment (AlexBrodbelt) [reply FormalConjectures/ErdosProblems/887.lean]: I agree - apologies, should have been a bit more careful. Hopefully, in the next iteration I have got it correct.

File: FormalConjectures/ErdosProblems/887.lean (hunk 12 above)
Comment (AlexBrodbelt) [reply FormalConjectures/ErdosProblems/887.lean]: Ok, I was being extra careful in case it was doing some slightly different operation.

File: FormalConjectures/ErdosProblems/887.lean [hunk 14]
```diff
@@ -0,0 +1,69 @@
...
+    Infinite {n : ℤ | (#{ d ∈ Ioo (⌊√n⌋) (⌈ √n + n^((1 : ℝ) / 4)⌉) | d ∣ n } = 4)} := by
+  sorry
+
+/--
+Erdős and Rosenfeld, ask whether $4$ is the best possible $K$ for the infinitude of $n$
+with $K$ divisors in $(n^{\frac{1}{2}}, n^{\frac{1}{2}} + n^{\frac{1}{4}})$.
+-/
+@[category research open, AMS 11]
+theorem erdos_887.variant_iii :
+    IsLeast {
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/887.lean]: On second thoughts, I think this should be `IsGreatest`. Given that the main problem is looking at `≤ K` then I think "best possible" means "largest" here.

File: FormalConjectures/ErdosProblems/887.lean [hunk 15]
```diff
@@ -0,0 +1,69 @@
...
+
+namespace Erdos887
+
+/--
+Is there an absolute constant $K$ such that, for every $C > 0$, if $n$ is sufficiently large then
+$n$ has at most $K$ divisors in $(n^{\frac{1}{2}}, n^{\frac{1}{2}} + C n^{\frac{1}{4}})$.
+-/
+@[category research open, AMS 11]
+theorem erdos_887 : ∀ C > (0 : ℝ), ∀ᶠ n in atTop,
+    #{ d ∈ Ioo (⌊√n⌋) (⌈ √n + C * n^((1 : ℝ) / 4)⌉) | d ∣ n } ≤ answer(sorry) := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/887.lean]: style nit: you can remove some parents here, and there's an unnecessary space at the start of the right-hand limit
```suggestion
    #{ d ∈ Ioo ⌊√n⌋ ⌈√n + C * n^((1 : ℝ) / 4)⌉ | d ∣ n } ≤ answer(sorry) := by
```

similarly for the rest of the statements

File: FormalConjectures/ErdosProblems/887.lean [hunk 16]
```diff
@@ -0,0 +1,69 @@
...
+
+/--
+Erdős and Rosenfeld, ask whether $4$ is the best possible $K$ for the infinitude of $n$
+with $K$ divisors in $(n^{\frac{1}{2}}, n^{\frac{1}{2}} + n^{\frac{1}{4}})$.
+-/
+@[category research open, AMS 11]
+theorem erdos_887.variant_iii :
+    IsLeast {
+      K | Infinite {n : ℤ | (#{ d ∈ Ioo (⌊√n⌋) (⌈ √n + n^((1 : ℝ) / 4)⌉) | d ∣ n } = K)}
+    } 4 := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/887.lean]: style nit: I think keeping the set on a single line makes most sense here
```suggestion
    IsLeast 
      {K | Infinite {n : ℤ | (#{ d ∈ Ioo (⌊√n⌋) (⌈ √n + n^((1 : ℝ) / 4)⌉) | d ∣ n } = K)}} 
      4 := by
```

File: FormalConjectures/ErdosProblems/887.lean (hunk 14 above)
Comment (AlexBrodbelt) [reply FormalConjectures/ErdosProblems/887.lean]: right, makes sense.

**Review by smmercuri — APPROVED** [review]
LGTM now, thank you!
